US06762316B1
A mixture of (−)-2-azabicyclo[2.2.1]hept-5-en-3-one (10 g, 91.7 mmol), ethanol (200 mL) and conc. HCl (10 mL) was heated at reflux for 2 h. The mixture was concentrated and the residue dried under vacuum. A white solid was obtained which was suspended in ether to give 17.5 g (100%) of (−)-ethyl cis-4-amino-2-cyclopentene-1-carboxylate hydrochloride.

reactant | (−)-2-azabicyclo[2.2.1]hept-5-en-3-one | 91.7 mmol, 10 g | C12NC(C(C=C1)C2)=O | C6H7NO
reactant | ethanol | 200 mL | C(C)O | C2H6O
reactant | HCl | 10 mL | Cl | ClH
reactant | ether | CCOCC | C4H10O
product | (−)-ethyl cis-4-amino-2-cyclopentene-1-carboxylate hydrochloride | 17.5 g, 100% | Cl.N[C@H]1C=C[C@H](C1)C(=O)OCC | InChI=1S/C8H13NO2.ClH/c1-2-11-8(10)6-3-4-7(9)5-6;/h3-4,6-7H,2,5,9H2,1H3;1H/t6-,7+;/m1./s1
